US04085104
2-n-Propyl-3.5-diethyl pyridine
Into a mixture of 62.9 grams of 2.4-di-n-propyl-5-ethyl-2,3,4,5-tetrahydropyrimidine, 4 grams of ammonium acetate and 4 grams of copper (II) acetate was introduced oxygen gas. Under continuous stirring and introduction of oxygen gas, the mixture was heated for 3 hours at 96°-128° C. The resulting reaction mixture was distilled under diminished pressure. The fraction b20 122°-126° was collected as 37.2 grams (67.8% of theory) of 2-n-propyl-3.5-diethyl pyridine; nuclear magnetic resonance spectrum, no solvent, τ in ppm 1.62 doublet 1H; 2.62 doublet 1H; 7.33 multiplet 6H; 8.20 multiplet 2H; 8.82 triplet and 9.03 triplet 9H.

reactant | 2.4-di-n-propyl-5-ethyl-2,3,4,5-tetrahydropyrimidine | 62.9 grams | C(CC)C1N=CC(C(N1)CCC)CC | C12H24N2
reactant | ammonium acetate | 4 grams | C(C)(=O)[O-].[NH4+]
reactant | oxygen | O=O | O2
catalyst | copper (II) acetate | 4 grams | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 2-n-Propyl-3.5-diethyl pyridine | C(CC)C1=NC=C(C=C1CC)CC | C12H19N
